.SUBCKT Fringe A B Y VDD GND

M_0_b Y B net_1 GND nfet W=0.288000U L=0.020000U nfin=6
M_0_a net_1 A GND GND nfet W=0.288000U L=0.020000U nfin=6
M_1_b Y B VDD VDD pfet W=0.288000U L=0.020000U nfin=6
M_1_a Y A VDD VDD pfet W=0.288000U L=0.020000U nfin=6

.ENDS 


